US07652149B2
The following procedure describes a method of preparing the crystal Form I of 4-[5-(4-fluorophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-benzenesulfonamide without isolating the crystal Form II. 2-propanol (70 ml) and ethyl trifluoroacetate (27.15 g, 0.191 moles) are added to a first vessel, followed by a line wash of 2-propanol (10 ml). Next, 25% sodium methoxide in methanol (37.5 g, 0.174 moles) is added to the vessel, followed by a line wash of 2-propanol (10 ml). Next, 4-fluoroacetophenone (20 g, 0.145 moles) is added followed by a line wash of 2-propanol (10 ml). The contents of vessel are heated to 55° C. and held at that temperature for 2 hours, then cooled to ambient temperature. Water (110 ml), concentrated hydrochloric acid (20.0 g, 0.203 moles), and 4-sulfonamidophenylhydrazine hydrochloride (32.4 g, 0.145 moles) are added to a second vessel, followed by a line wash of water (10 ml). The contents of the first vessel are added to the second vessel, followed by a line wash of 2-propanol (60 ml). The combined contents are heated at 70° C. for 2 hours, then cooled to 55° C. and seeded with 10 mg (0.05% wt/wt relative to 4-fluoroacetophenone) of Form I of 4-[5-(4-fluorophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-benzenesulfonamide. The contents are held at 55° C. for 6 hours, then cooled to ambient temperature and filtered. The product is washed with 50% aqueous 2-propanol (120 ml) and water (60 ml), then dried under vacuum at 55° C. to give 4-[5-(4-fluorophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-benzenesulfonamide of the desired Form I polymorph (44.8 g, 80%).

reactant | ethyl trifluoroacetate | 0.191 moles, 27.15 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.174 moles, 37.5 g | CO | CH4O
reactant | 4-fluoroacetophenone | 0.145 moles, 20 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | hydrochloric acid | 0.203 moles, 20.0 g | Cl | ClH
reactant | 4-sulfonamidophenylhydrazine hydrochloride | 0.145 moles, 32.4 g | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
solvent | Water | 110 ml | O | H2O
solvent | 2-propanol | 70 ml | CC(C)O | C3H8O
product | 4-[5-(4-fluorophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-benzenesulfonamide | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F | C16H11F4N3O2S
